US07968711B2
Methyl 4-hydroxy-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylate (0.8 g, 3.24 mmol) was suspended in sodium hydroxide solution (20 ml of 2.0M) and heated at reflux for 1 hour. The mixture was allowed to cool to room temperature, acidified with 2M hydrochloric acid and extracted with ethyl acetate (3×15 ml). The combined organic extracts were dried over anhydrous magnesium sulphate, filtered and evaporated to yield 4-hydroxy-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid as a yellow solid (0.6 g, 80%).

reactant | Methyl 4-hydroxy-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylate | 3.24 mmol, 0.8 g | OC=1C(=NN(C(C1)=O)C1=CC=CC=C1)C(=O)OC | C12H10N2O4
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | sodium hydroxide | 2.0M, 20 ml | [OH-].[Na+]
product | 4-hydroxy-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid | 0.6 g, 80% | OC=1C(=NN(C(C1)=O)C1=CC=CC=C1)C(=O)O | C11H8N2O4
